US07951824B2
4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid (2-cyano-pyridin-4-yl)-amide
The title compound, was prepared from 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using 4-Amino-pyridine-2-carbonitrile instead of 3-chloroaniline to yield the final compound as a white crystalline, MS (ISP): m/e=351.2 (M+H)+.

reactant | 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C | C15H13F2NO2
reactant | 4-Amino-pyridine-2-carbonitrile | NC1=CC(=NC=C1)C#N | C6H5N3
product | 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid (2-cyano-pyridin-4-yl)-amide | C(#N)C1=NC=CC(=C1)NC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C | C19H12F2N4O
